US08193118B2
This example illustrates one protocol for the preparation of ((2,3-dimethylphenyl)methyl)-1,3-oxazolin-2-ylamine (Compound A25)
A mixture of 1.0 gram (0.0074 mole) of 2,3-dimethylbenzylamine and 0.69 gram (0.0081 mole) of 2-chloroethylisocyanate in 10 mL of 1,4-dioxane was heated to reflux where it stirred for about 18 hours. The reaction mixture was allowed to cool and an aqueous solution of sodium hydroxide (4.0 mL of a 3.0 molar solution) was added. The reaction mixture was heated to reflux for about 18 hours then allowed to cool to ambient temperature. The reaction mixture was concentrated under reduced pressure to leave a viscous oil residue. The residue was suspended in 50 mL of ethyl acetate and washed with 20 mL of water. The organic phase was extracted with 20 mL of 3.0 molar aqueous hydrochloric acid. The aqueous extract was made basic by adding 3.0 molar aqueous sodium hydroxide and the basic mixture was extracted with 50 mL of ethyl acetate. The extract was dried with sodium sulfate, filtered and the filtrate concentrated under reduced pressure to yield 0.81 gram of the title compound as an oil. The NMR spectrum was consistent with the proposed structure.

reactant | 2,3-dimethylbenzylamine | 0.0074 mole, 1.0 gram | CC1=C(CN)C=CC=C1C | C9H13N
reactant | 2-chloroethylisocyanate | 0.0081 mole, 0.69 gram | ClCCN=C=O | C3H4ClNO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | ((2,3-dimethylphenyl)methyl)-1,3-oxazolin-2-ylamine | 0.81 gram | CC1=C(C=CC=C1C)CNC=1OCCN1 | C12H16N2O
